US05635510
58.2 Synthesis of 4-cyano-4-(thiophen-2-yl)-piperidine hydrochloride
Prepare by the method of example 30.3 using 1-tert-butoxycarbonyl-4-cyano-4-(thiophen-2-yl)-piperidine (3 mmol) and HCl in dioxane (4N, 40 mmol). Concentrate the solvent in vacuo and dry under high vacuum to give the title compound.

reactant | 1-tert-butoxycarbonyl-4-cyano-4-(thiophen-2-yl)-piperidine | 3 mmol | C(C)(C)(C)OC(=O)N1CCC(CC1)(C=1SC=CC1)C#N | C15H20N2O2S
reactant | HCl | Cl | ClH
reactant | dioxane | 40 mmol, 4N | O1CCOCC1 | C4H8O2
product | 4-cyano-4-(thiophen-2-yl)-piperidine hydrochloride | Cl.C(#N)C1(CCNCC1)C=1SC=CC1 | InChI=1S/C10H12N2S.ClH/c11-8-10(3-5-12-6-4-10)9-2-1-7-13-9;/h1-2,7,12H,3-6H2;1H
